US20010003747A1
Step A: 2-(4-Methoxy-2-nitrophenoxy)-1-phenyl-1-ethanone
Under an inert atmosphere, 4-methoxy-2-nitrophenol (1.5 g; 8.86 mmol) is dissolved in 30 ml of acetone, and then 2-bromoacetophenone (1.5 eq.; 13.29 mmol; 2.79 g) and also potassium carbonate (1.2 eq.; 10.64 mmol; 1.47 g) are added. The mixture is stirred vigorously, at reflux, for 3 hours. After returning to ambient temperature, the potassium carbonate is filtered off, the filtrate is evaporated and the residue is taken up in a water/ethyl acetate mixture. The organic phase is dried over MgSO4 and then concentrated under reduced pressure. The crude reaction product is purified by flash chromatography on silica gel (eluant: PE/AcOEt (8/2)). The title product is obtained in the form of a yellow solid.

reactant | 4-methoxy-2-nitrophenol | 8.86 mmol, 1.5 g | COC1=CC(=C(C=C1)O)[N+](=O)[O-] | C7H7NO4
reactant | 2-bromoacetophenone | 13.29 mmol, 2.79 g, 1.5 eq. | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | potassium carbonate | 10.64 mmol, 1.47 g, 1.2 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2-(4-Methoxy-2-nitrophenoxy)-1-phenyl-1-ethanone | COC1=CC(=C(OCC(=O)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C15H13NO5
